US09387200B2
c) 3-Bromomethyl-7-(2,2-dimethyl-propionyloxy)-4-phenyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester
To a solution of 7-(2,2-dimethyl-propionyloxy)-3-methyl-4-phenyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester (392 mg) in CCl4 (1.8 mL) was added N-bromosuccinimide (172 mg) and benzoyl peroxide (11.1 mg). The reaction mixture was refluxed for 18 h. After cooling to r.t. the mixture was filtered. The filtrate was concentrated in vacuo and purified by flash chromatography on silica gel. Eluting with 0-20% EtOAc/CH2Cl2 gave the title compound (398 mg) as a yellow oil: MS (m/z) 505.1 (M+1), 507.1 (M+1).

reactant | 7-(2,2-dimethyl-propionyloxy)-3-methyl-4-phenyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester | 392 mg | C(CCC)OC(=O)C1=C(C2=C(C(=N1)C1=CC=CC=C1)C(=NS2)C)OC(C(C)(C)C)=O | C23H26N2O4S
reactant | N-bromosuccinimide | 172 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 1.8 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 11.1 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-Bromomethyl-7-(2,2-dimethyl-propionyloxy)-4-phenyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester | 398 mg | C(CCC)OC(=O)C1=C(C2=C(C(=N1)C1=CC=CC=C1)C(=NS2)CBr)OC(C(C)(C)C)=O | C23H25BrN2O4S
